US08609903B2
A 100 ml glass autoclave is charged with 11.8 g (60.0 mmol) of 3,4,5-trimethoxybenzaldehyde and 47.2 g (420 mmol) of dimethylamine (40% solution in water). The autoclave is closed and the biphasic reaction mixture is stirred at 140° C. (autogenous pressure 10 bar) for 18 h. Excess dimethylamine and water are removed under reduced pressure, methyl tert-butyl ether is added and the mixture is acidified with 30% hydrochloric acid in water. After phase separation and removal of all volatile constituents of the organic phase, 4-hydroxy-3,5-dimethoxybenzaldehyde is obtained in a yield of 72%.

reactant | 3,4,5-trimethoxybenzaldehyde | 60.0 mmol, 11.8 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | dimethylamine | 420 mmol, 47.2 g | CNC | C2H7N
product | 4-hydroxy-3,5-dimethoxybenzaldehyde | yield of 72% | OC1=C(C=C(C=O)C=C1OC)OC | C9H10O4
